US07230007B2
4.8 mg of N-(1-quinolin-4-yl-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-guanidine were dissolved using 150 ml of an aqueous solution containing 381 mg MgCl2, 1.3 mM NADPH (Dihydronicotinamide adenine dinucleotide phosphate, Calbiochem product number: 481973; Shen, A. L., et al. 1989. J. Biol. Chem. 264, 7584; Yamano, S., et al. 1989. Mol. Pharmacol. 36, 83.), 300 mg of human S9 fraction and 2.5 mM UDPGA (Uridine 5′-diphosphoglucuronic acid trisodium salt, Sigma catalog number U6751). The mixture was incubated for 120 minutes at 37° C. Then, 40 ml of acetonitrile were added, proteins centrifuged and decanted. This solution was concentrated to 100 ml and chromatographed using the system described below. The solvents were removed under reduced pressure to yield 0.9 mg of N-[1-(2-hydroxy-quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]-guanidine as an amorphous solid.

reactant | N-(1-quinolin-4-yl-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-guanidine | 4.8 mg | N1=CC=C(C2=CC=CC=C12)N1C=C(C=2C1=NC=CC2)C(=O)NC(=N)N | C18H14N6O
reactant | MgCl2 | 381 mg | [Mg+2].[Cl-].[Cl-]
reactant | NADPH | 1.3 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | Dihydronicotinamide adenine dinucleotide phosphate | C1C=CN(C=C1C(=O)N)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O | C21H30N7O17P3
reactant | UDPGA | 2.5 mM | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)C(=O)O)O)O)O)O)O | C15H22N2O18P2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-[1-(2-hydroxy-quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]-guanidine | 0.9 mg | OC1=NC2=CC=CC=C2C(=C1)N1C=C(C=2C1=NC=CC2)C(=O)NC(=N)N | C18H14N6O2
